US04273779
The starting material is prepared as follows: The mixture of 11.25 g of 5-aminopyridine-2-carboxylic acid methyl ester, 10.0 g of m-fluorobenzaldehyde and 50 ml of benzene is refluxed for 22 hours on a water trap. It is evaporated and the residue recrystallized from acetonitrile, to yield the 5-(m-fluorobenzylideneamino)-pyridine-2-carboxylic acid methyl ester, melting at 111°-114°.

reactant | 5-aminopyridine-2-carboxylic acid methyl ester | 11.25 g | COC(=O)C1=NC=C(C=C1)N | C7H8N2O2
reactant | m-fluorobenzaldehyde | 10.0 g | FC=1C=C(C=O)C=CC1 | C7H5FO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 5-(m-fluorobenzylideneamino)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)N=CC1=CC(=CC=C1)F | C14H11FN2O2
